US08536209B2
5-(3-Dimethylamino-phenyl)-oxazole-4-carboxylic acid [2-(4-acetyl-thiazol-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[4-(2-methyl-[1,3]dioxolan-2-yl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(3-dimethylamino-phenyl)-oxazole-4-carboxylic acid.

reactant | 2-[4-(2-methyl-[1,3]dioxolan-2-yl)-thiazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C=1N=C(SC1)CN1N=CC(=N1)N | C10H13N5O2S
reactant | 5-(3-dimethylamino-phenyl)-oxazole-4-carboxylic acid | CN(C=1C=C(C=CC1)C1=C(N=CO1)C(=O)O)C | C12H12N2O3
product | 5-(3-Dimethylamino-phenyl)-oxazole-4-carboxylic acid [2-(4-acetyl-thiazol-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C=1N=C(SC1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC(=CC=C1)N(C)C | C20H19N7O3S
